* C:\Users\lakat\Documents\GitHub\Fuente_LabElectronica\Fuente_v5.asc
D10 N002 N001 MURS320
D11 N010 N001 MURS320
D12 N006 N010 MURS320
D13 N006 N002 MURS320
D1 V+ N001 MURS320
R3 V+ N007 240
D4 N007 V+ MURS320
C1 N007 0 10µ
R4 N007 N009 {Rd}
C2 V+ 0 0.1µ
R6 N004 N003 2
D7 N006 V- MURS320
R1 V- N015 240
D8 V- N015 MURS320
C4 N015 0 10µ
R2 N015 N014 {Rd2}
C5 V- 0 0.1µ
R5 N013 N012 2
C6 N013 0 0.1µ
XU3 N006 N016 N012 LM337
XU4 N013 N015 V- LM337
XU5 N005 N007 V+ LM317 LM317
XU6 N001 N008 N003 LM317 LM317
D5 N004 P001 MURS320
D6 P001 N011 MURS320
D2 0 P002 MURS320
D3 P002 N009 MURS320
R7 N004 N008 500
R8 N008 N011 100
C3 N005 0 1µ
R9 N011 N006 150
R10 N009 N006 150
V4 N002 0 SINE(0 18 50) AC 18 Rser=0.3
V5 0 N010 SINE(0 18 50) AC 18 Rser=0.3
C7 N001 0 0.1µ
C8 N001 0 680µ
C9 N006 0 680µ
C10 N006 0 0.1µ
D15 N017 N013 MURS320
D16 N019 N017 MURS320
R11 N013 N016 5
R12 N016 N019 100
R13 N019 N001 270
D9 N014 N018 MURS320
D14 N018 0 MURS320
R14 N014 N001 270
R15 V+ 0 1Meg
R16 V- 0 1000
R17 N005 N004 1
.model D D
.lib C:\Users\lakat\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc MURS320T3.LIB
.tran 1
.param Rd=2.2k
.param R_limit = 0.5
.param Rdiv = 200
.param Rd2=2.35k
.lib LM317.sub
.lib LM337.sub
.backanno
.end
